US07018988B2
(2S)-N1-(3,5-dichlorophenyl)-4-methylene-N2-(6-quinolinyl)-1,2-pyrrolidinedicar-boxamide
Following the general method as outlined in Example 22, starting from 1-(tert-butoxy-carbonyl)-4-methyleneproline, 1,3-dichloro-5-isocyanatobenzene, and 6-quinolinamine the title compound was obtained in 65% purity by LC/MS. MS(ESI+): m/z=441.0.

reactant | 1-(tert-butoxy-carbonyl)-4-methyleneproline | C(C)(C)(C)OC(=O)N1[C@H](C(=O)O)CC(C1)=C | C11H17NO4
reactant | 1,3-dichloro-5-isocyanatobenzene | ClC1=CC(=CC(=C1)N=C=O)Cl | C7H3Cl2NO
reactant | 6-quinolinamine | N1=CC=CC2=CC(=CC=C12)N | C9H8N2
product | (2S)-N1-(3,5-dichlorophenyl)-4-methylene-N2-(6-quinolinyl)-1,2-pyrrolidinedicar-boxamide | ClC=1C=C(C=C(C1)Cl)NC(=O)N1[C@@H](CC(C1)=C)C(=O)NC=1C=C2C=CC=NC2=CC1 | C22H18Cl2N4O2
